US05521170
To a solution of 2-(4-methylphenyl)benzoic acid (140 mg) in dichloromethane (5 ml) were added oxalyl chloride (133 mg) and a few drop of N,N-dimethylformamide and the solution was stirred at ambient temperature for 2 hours. Dichloromethane was evaporated in vacuo to give an acid chloride as an oil and the oil was added to a mixture of 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline (166 mg) and triethylamine (0.14 ml) in dichloromethane (20 ml). The mixture was stirred at ambient temperature for 2 hours, washed successively with diluted hydrogen chloride, water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to give an oil and the oil was subjected to silica gel column (30 g, 1% methanol in chloroform) to give 1-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline (202 mg) as an amorphous solid.

reactant | 1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline | 166 mg | NC1=CC=C(C(=O)N2CCCC3=CC=CC=C23)C=C1 | C16H16N2O
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 30 g | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-{4-[2-(4-methylphenyl)benzoylamino]benzoyl}-1,2,3,4-tetrahydroquinoline | 202 mg | CC1=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC=C1 | C30H26N2O2
